US04898943
5-(2-Cyclohexylethyl)-4-methyl-2-thiazolamine
A mixture of 22.2 g of 5-cyclohexyl-2-pentanone, 20.10 g of thiourea, and 33.48 g of iodine was stirred for 23 hours at a bath temperature of from 100° to 120° C. To the mixture was added 150 ml of water, followed by refluxing for 30 minutes. After cooling, an aqueous sodium hydroxide solution was added to neutralize. The mixture was extracted with ethyl acetate, and the extract was washed with water and dried. The solvent was removed by distillation, and the residue was purified by silica gel column chromatography. Recrystallization from aqueous methanol yielded 10.9 g of the titled compound.

reactant | 5-cyclohexyl-2-pentanone | 22.2 g | C1(CCCCC1)CCCC(C)=O | C11H20O
reactant | thiourea | 20.10 g | NC(=S)N | CH4N2S
reactant | iodine | 33.48 g | II | I2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 150 ml | O | H2O
product | 5-(2-Cyclohexylethyl)-4-methyl-2-thiazolamine | 10.9 g | C1(CCCCC1)CCC1=C(N=C(S1)N)C | C12H20N2S
